US07812043B2
4-Cyclopentanecarbonyl-1-butyl-pyrrole-2-carboxylic acid (132 mg) was obtained following the hydrolysis of the ester intermediate via the general procedure E. 4-Cyclopentanecarbonyl-1-butyl-pyrrole-2-carboxylic acid thiazol-2-ylamide (40 mg) was prepared from 4-cyclopentanecarbonyl-1-butyl-pyrrole-2-carboxylic acid (132 mg, 0.5 mmol) and 2-aminothiazole (51 mg, 0.5 mmol) following the general procedure F.

reactant | 4-cyclopentanecarbonyl-1-butyl-pyrrole-2-carboxylic acid | 0.5 mmol, 132 mg | C1(CCCC1)C(=O)C=1C=C(N(C1)CCCC)C(=O)O | C15H21NO3
reactant | 2-aminothiazole | 0.5 mmol, 51 mg | NC=1SC=CN1 | C3H4N2S
product | 4-Cyclopentanecarbonyl-1-butyl-pyrrole-2-carboxylic acid thiazol-2-ylamide | 40 mg | S1C(=NC=C1)NC(=O)C=1N(C=C(C1)C(=O)C1CCCC1)CCCC | C18H23N3O2S
